US08791255B2
The product is prepared according to the procedure described in Example 5, using 260 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 318 mg of 2,4-difluoro-3-methoxyaniline in place of the 2,4-difluoroaniline. 255 mg of N-(2,4-difluoro-3-methoxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 260 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 2,4-difluoro-3-methoxyaniline | 318 mg | FC1=C(N)C=CC(=C1OC)F | C7H7F2NO
product | N-(2,4-difluoro-3-methoxyphenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 255 mg | FC1=C(C=CC(=C1OC)F)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C17H18F2N4O4
